US06451810B1
A solution of isopropyl 6-chloronicotinate (6.0 g, 0.03 mol) and morpholine (13 mL, 0.15 mol) in isopropyl alcohol (60 mL) was heated at reflux for 72 hours. The solution was allowed to cool to ambient temperature overnight. The resulting precipitate was isolated by filtration, washed with isopropyl alcohol and dried to provide isopropyl 6-morpholinonicotinate. The filtrate was diluted with water. The resulting precipitate was isolated by filtration, washed with water and dried to provide isopropyl 6-morpholinonicotinate. The combined yield was 8.3 g. The isopropyl 6-morpholinonicotinate was combined with 1 N sodium hydroxide (40 mL) and the resulting suspension was stirred at 50-60° C. until all of the solid had dissolved. The solution was stirred at ambient temperature overnight during which time a precipitate formed. This material was isolated by filtration and identified as starting material. The filtrate was neutralized with concentrated hydrochloric acid. The resulting precipitate was isolated by filtration, washed with water and dried to provide 3.3 g of crude product. This material was recrystallized from methanol/dichloromethane to provide 6-morpholinonicotinic acid as a solid, m.p. 259-261° C. Analysis: Calculated for C10H12N2O3: %C, 57.19; %H, 5.81; %N, 13.48; Found: %C, 57.50; %H, 5.71; %N, 13.53.

reactant | isopropyl 6-morpholinonicotinate | O1CCN(CC1)C1=NC=C(C(=O)OC(C)C)C=C1 | C13H18N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 40 mL | [OH-].[Na+]
product | 6-morpholinonicotinic acid | O1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C10H12N2O3
